### PR TITLE
feat(ErdosProblems): 1063

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/1105 with the help of codex :)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1063.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1063
+
+*References:*
+ - [erdosproblems.com/1063](https://www.erdosproblems.com/1063)
+ - [ErSe83] Erdos, P. and Selfridge, J. L., Problem 6447. Amer. Math. Monthly (1983), 710.
+ - [Gu04] Guy, Richard K., _Unsolved problems in number theory_. (2004), Problem B31.
+ - [Mo85] Monier (1985). No reference found.
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1063.lean]: What do you mean with this?

File: FormalConjectures/ErdosProblems/1063.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+
+namespace Erdos1063
+
+/--
+Let `nK k` be the least `n ≥ 2k` such that all but one of the integers `n - i` with `0 ≤ i < k`
+divide `n.choose k`.
+-/
+noncomputable def nK (k : ℕ) : ℕ :=
+  sInf {n | 2 * k ≤ n ∧ ∃ i0 < k, ¬ (n - i0) ∣ n.choose k ∧
+    ∀ i < k, i ≠ i0 → (n - i) ∣ n.choose k}
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
  sInf {n | 2 * k ≤ n ∧ ∃! i < k, ¬ (n - i0) ∣ n.choose k
```

File: FormalConjectures/ErdosProblems/1063.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+
+/--
+Erdos and Selfridge noted that, for `n ≥ 2k` with `k ≥ 2`, at least one of the numbers `n - i`
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
Erdős and Selfridge noted that, for `n ≥ 2k` with `k ≥ 2`, at least one of the numbers `n - i`
```

Hungarian :)

File: FormalConjectures/ErdosProblems/1063.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+/-- The initial values satisfy `nK 2 = 4`, `nK 3 = 6`, `nK 4 = 9`, and `nK 5 = 12`. -/
+@[category research solved, AMS 11]
+theorem erdos_1063.variants.small_values :
+    nK 2 = 4 ∧ nK 3 = 6 ∧ nK 4 = 9 ∧ nK 5 = 12 := by
+  sorry
+
+/-- Monier observed that `nK k ≤ k!` for `k ≥ 3`. -/
+@[category research solved, AMS 11]
+theorem erdos_1063.variants.monier_upper_bound {k : ℕ} (hk : 3 ≤ k) :
+    nK k ≤ k! := by
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
    nK k ≤ k ! := by
```
then it should compile

File: FormalConjectures/ErdosProblems/1063.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+  sorry
+
+/-- Cambie observed the improved bound `nK k ≤ k * lcm(1, ..., k - 1)`. -/
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1063.lean]: I think adding a reference for this would be good

File: FormalConjectures/ErdosProblems/1063.lean [hunk 6]
```diff
@@ -0,0 +1,87 @@
...
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1063
+
+*References:*
+ - [erdosproblems.com/1063](https://www.erdosproblems.com/1063)
```
Comment (cyb3r17) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
 * [erdosproblems.com/1063](https://www.erdosproblems.com/1063)
```
Similarly for other references!

File: FormalConjectures/ErdosProblems/1063.lean (hunk 5 above)
Comment (cyb3r17) [reply FormalConjectures/ErdosProblems/1063.lean]: I think the issue is that there's no reference for it on the Erdos problems website

File: FormalConjectures/ErdosProblems/1063.lean (hunk 1 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1063.lean]: This is a direct copy from https://www.erdosproblems.com/latex/1063. Please let me know if this should be changed.

File: FormalConjectures/ErdosProblems/1063.lean (hunk 5 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1063.lean]: Precisely, just copied from https://www.erdosproblems.com/latex/1063

File: FormalConjectures/ErdosProblems/1063.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/1063.lean]: Maybe you can find the reference? It seems a bit odd to include this I think

**Comment by conglu1997** [comment]
@felixpernegger Thanks for the comments, I think you need to sign the CLA!

**Comment by felixpernegger** [comment]
> @felixpernegger Thanks for the comments, I think you need to sign the CLA!

Hmm weird this is popping up. I did sign it (and have merged PRs, so the linter worked correctly otherwhere)

**Comment by conglu1997** [comment]
❌ https://github.com/google-deepmind/formal-conjectures/commit/9239faa50e205c269d92012a203df8537d124620 Co-Author: <s5****rn​@uni-bonn.de>

I wonder if it's a different email?

**Comment by felixpernegger** [comment]
Technically yes? But again that shouldnt make a difference, since this worked on other PRs perfectly fine. Maybe its possible to remove me from co authors or something?

**Comment by mo271** [comment]
> Technically yes? But again that shouldnt make a difference, since this worked on other PRs perfectly fine. Maybe its possible to remove me from co authors or something?

@felixpernegger 

I don't quite understand why this is failing, especially given that you used the exact same email in other prs before? On way to fix it would be probably to add/associate the @uni-bonn.de address in the github settings somewhere (doesn't need to be visibly on the public profile). 
Another possibly to use the github username in the commits instead of the "Firstname Lastname". I'm happy to rewrite the history of this pull request to see if this helps, but I recommend first to try the "adding @uni-bonn to github" approach.
(A third possiblity to use the address you signed the cla with (which is either a gmail adress or one associated with a google account). Sorry for the inconvenience...

**Comment by mo271** [comment]
I overwrote this check manually for now, to unblock this pull request.

File: FormalConjectures/ErdosProblems/1063.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/1063.lean]: This is Stijn Cambie in the comment section (which we could link to...)

**Comment by felixpernegger** [comment]
> > Technically yes? But again that shouldnt make a difference, since this worked on other PRs perfectly fine. Maybe its possible to remove me from co authors or something?
> 
> @felixpernegger
> 
> I don't quite understand why this is failing, especially given that you used the exact same email in other prs before? On way to fix it would be probably to add/associate the @uni-bonn.de address in the github settings somewhere (doesn't need to be visibly on the public profile). Another possibly to use the github username in the commits instead of the "Firstname Lastname". I'm happy to rewrite the history of this pull request to see if this helps, but I recommend first to try the "adding @uni-bonn to github" approach. (A third possiblity to use the address you signed the cla with (which is either a gmail adress or one associated with a google account). Sorry for the inconvenience...

Thank you, I will try this!

**Comment by mo271** [comment]
> Thank you, I will try this!

It worked: CLA check now green without me overwriting it...

File: FormalConjectures/ErdosProblems/1063.lean (hunk 5 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1063.lean]: Done!

File: FormalConjectures/ErdosProblems/1063.lean (hunk 1 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1063.lean]: Cannot find this at all

File: FormalConjectures/ErdosProblems/1063.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+  sorry
+
+/-- Monier observed that `nK k ≤ k!` for `k ≥ 3`. -/
+@[category research solved, AMS 11]
+theorem erdos_1063.variants.monier_upper_bound {k : ℕ} (hk : 3 ≤ k) :
+    nK k ≤ k ! := by
+  sorry
+
+/-- Cambie observed the improved bound `nK k ≤ k * lcm(1, ..., k - 1)`.
+Source: comment on https://www.erdosproblems.com/1063.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
/-- [Cambie observed](https://www.erdosproblems.com/1063) the improved bound `nK k ≤ k * lcm(1, ..., k).

```
Also for all docstrings here: please use latex markdown instead of backticks

File: FormalConjectures/ErdosProblems/1063.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+open Filter Real
+open scoped Nat Topology
+
+namespace Erdos1063
+
+/--
+Let `nK k` be the least `n ≥ 2k` such that all but one of the integers `n - i` with `0 ≤ i < k`
+divide `n.choose k`.
+-/
+noncomputable def nK (k : ℕ) : ℕ :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1063.lean]: I think you duplicated the `k`?
```suggestion
noncomputable def n (k : ℕ) : ℕ :=
```

File: FormalConjectures/ErdosProblems/1063.lean [hunk 9]
```diff
@@ -0,0 +1,88 @@
...
+    ∃ i < k, ¬ (n - i) ∣ n.choose k := by
+  sorry
+
+/-- The initial values satisfy $n_2 = 4$, $n_3 = 6$, $n_4 = 9$, and $n_5 = 12$. -/
+@[category research solved, AMS 11]
+theorem erdos_1063.variants.small_values :
+    n 2 = 4 ∧ n 3 = 6 ∧ n 4 = 9 ∧ n 5 = 12 := by
+  sorry
+
+/-- Monier observed that $n_k \le k!$ for $k \ge 3$. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1063.lean]:
```suggestion
/-- Monier observed that $n_k \le k!$ for $k \ge 3$.
TODO: Find reference
-/
```

File: FormalConjectures/ErdosProblems/1063.lean [hunk 10]
```diff
@@ -0,0 +1,88 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1063
+
+*References:*
+ * [erdosproblems.com/1063](https://www.erdosproblems.com/1063)
+ * [ErSe83] Erdos, P. and Selfridge, J. L., Problem 6447. Amer. Math. Monthly (1983), 710.
+ * [Gu04] Guy, Richard K., _Unsolved problems in number theory_. (2004), Problem B31.
+ * [Mo85] Monier (1985). No reference found.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1063.lean:26]: Can you refer to these inline?

Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1063.lean:26]: done, thanks! :)
